US05665718
1.09 g (3 mmol) of 7-chloro-3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature overnight with 0.97 g (7.5 mmol) of diisobutylamine and 15 ml of N,N-dimethylformamide. After evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 1.19 g (86%) of 7-chloro-3-(5-diisobutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 181°-182°, which was converted into the hydrochloride of m.p. 161°-163°.

reactant | 7-chloro-3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3 mmol, 1.09 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1OC(=NN1)CCl)C)=O | C15H11Cl2N5O2
reactant | diisobutylamine | 7.5 mmol, 0.97 g | C(C(C)C)NCC(C)C | C8H19N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(5-diisobutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.19 g, 86% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1OC(=NN1)CN(CC(C)C)CC(C)C)C)=O | C23H29ClN6O2
